US04686230
9. (±)-2,2-Difluoro-6-{[1-(4-methoxy-2-pyridyl)ethyl]thio}-5H-[1,3]-dioxolo[4,5-f]benzimidazole
4 g of 2,2-difluoro-5H-[1,3]-dioxolo[4,5-f]benzimidazole-6-thiol, 3.6 g of (±)-2-(1-chloroethyl)-4-methoxy-pyridine hydrochloride, 1.4 g of sodium hydroxide, 3 ml of water and 50 ml of ethanol are stirred for 4 h at 65° C. The reaction mixture is concentrated to dryness, the residue is dissolved in 100 ml of 2N hydrochloric acid, impurities are extracted by shaking with ethyl acetate, and the aqueous phase is adjusted with sodium hydroxide solution to pH 10 and extracted with ethyl acetate. The organic phase is dried and concentrated. Recrystallisation from toluene gives 4.3 g (80.5%) of the title compound of m.p. 173°-175° C.

reactant | 2,2-difluoro-5H-[1,3]-dioxolo[4,5-f]benzimidazole-6-thiol | 4 g | FC1(OC=2C(=CC3=C(N=C(N3)S)C2)O1)F | C8H4F2N2O2S
reactant | (±)-2-(1-chloroethyl)-4-methoxy-pyridine hydrochloride | 3.6 g | Cl.ClC(C)C1=NC=CC(=C1)OC
reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (±)-2,2-Difluoro-6-{[1-(4-methoxy-2-pyridyl)ethyl]thio}-5H-[1,3]-dioxolo[4,5-f]benzimidazole | 4.3 g, 80.5% | FC1(OC=2C(=CC3=C(N=C(N3)SC(C)C3=NC=CC(=C3)OC)C2)O1)F | C16H13F2N3O3S
